US06458796B1
5-(3,4,5-Trimethoxy-benzyl)-3-[1-(1-hydroxy-ethyl)-4-phenyl-butyl]-3,6-dihydro-[1,2,3]triazolo[4,5-d]pyrimidin-7-one
Analogously to the procedure of Example XI, the title compound is prepared from 10 mg (0.024 mmol) of 5-amino-1-[1-(1-hydroxy-ethyl)-4-phenyl-butyl]-1H-[1,2,3]triazole-4-carboxamide and 20 mg (0.107 mmol) of methyl 3,4,5-trimethoxyphenylacetate.

reactant | 5-amino-1-[1-(1-hydroxy-ethyl)-4-phenyl-butyl]-1H-[1,2,3]triazole-4-carboxamide | 0.024 mmol, 10 mg | NC1=C(N=NN1C(CCCC1=CC=CC=C1)C(C)O)C(=O)N | C15H21N5O2
reactant | methyl 3,4,5-trimethoxyphenylacetate | 0.107 mmol, 20 mg | COC=1C=C(C=C(C1OC)OC)CC(=O)OC | C12H16O5
product | 5-(3,4,5-Trimethoxy-benzyl)-3-[1-(1-hydroxy-ethyl)-4-phenyl-butyl]-3,6-dihydro-[1,2,3]triazolo[4,5-d]pyrimidin-7-one | COC=1C=C(CC=2NC(C3=C(N2)N(N=N3)C(CCCC3=CC=CC=C3)C(C)O)=O)C=C(C1OC)OC | C26H31N5O5
